US07598391B2
3-(5-Chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-[1-(morpholine-4-carbonyl)-piperidin-4-yl]-urea
Prepared in a similar manner to Example 554 using 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea and 4-morpholinecarbonyl chloride

reactant | 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea | ClC1=CN=C(S1)NC(N(C1CCNCC1)[C@@H]1CC[C@H](CC1)C)=O | C16H25ClN4OS
reactant | 4-morpholinecarbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 3-(5-Chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-[1-(morpholine-4-carbonyl)-piperidin-4-yl]-urea | ClC1=CN=C(S1)NC(N(C1CCN(CC1)C(=O)N1CCOCC1)[C@@H]1CC[C@H](CC1)C)=O | C21H32ClN5O3S
